US09326987B2
N-[6-(1H-Pyrrolo[2,3-b]pyridin-4-yl)-1H-indazol-4-yl]-2-furancarboxamide
A solution of N-{1-(phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-2-furancarboxamide (80 mg) and 2M sodium hydroxide (2 ml) in IPA (4 ml) was stirred for 18 h at RT. The solution was heated at 70° C. for 1.5 h. The solution was cooled, neutralized with 2M HCl (aq) (2 ml) and purged with nitrogen to remove the IPA. The resulting solid was collected by filtration and dried in vacuo at 50° C. to give title compound, 30 mg.

reactant | N-{1-(phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-2-furancarboxamide | 80 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C=C12)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC(=O)C=2OC=CC2 | C31H21N5O6S2
reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M, 2 ml | Cl | ClH
solvent | IPA | 4 ml | CC(C)O | C3H8O
product | N-[6-(1H-Pyrrolo[2,3-b]pyridin-4-yl)-1H-indazol-4-yl]-2-furancarboxamide | N1C=CC=2C1=NC=CC2C2=CC(=C1C=NNC1=C2)NC(=O)C=2OC=CC2 | C19H13N5O2
